US07456200B2
To a solution of (R)-2-methylsuccinic acid 4-methyl ester (2.2 g, 15 mmol) and triethylamine (4.54 g, 45 mmol) in THF (30 ml), isobutylchloroformate (2.16 g, 15.8 mmol) was added dropwise at 0° C. After being stirred for 30 min, the 3-chloro-N-hydroxy-benzamidine (2.56 g, 15 mmol) was added. The reaction mixture was stirred at room temperature for another 30 min and then heated to 135° C. with DMF for 45 min. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The organic layer was dried and concentrated to give 4.0 g (95%) of (R)-3-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-butyric acid methyl ester as pale-yellow oil. Step 2: (R)-3-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-butyric acid hydrazide: (R)-3-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-butyric acid hydrazide (430 mg, 77%) was obtained from (R)-3-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-butyric acid methyl ester (461.4 mg, 2.0 mmol) reacted with hydrazine hydrate (2 mL) in methanol (2 mL) at 65° C. for 1 h. 1H-NMR(CDCl3) d (ppm): 8.07 (s, 1H), 7.96 (d, 1H), 7.46 (m, 2H), 6.98 (w, 1H), 3.93 (w, 2H), 3.78 (m, 1H), 2.86 (dd, 1H), 2.55 (dd, 1H) and 1.59 (d, 3H).

reactant | (R)-2-methylsuccinic acid 4-methyl ester | 15 mmol, 2.2 g | COC(C[C@H](C(=O)O)C)=O | C6H10O4
reactant | triethylamine | 45 mmol, 4.54 g | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 15.8 mmol, 2.16 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 3-chloro-N-hydroxy-benzamidine | 15 mmol, 2.56 g | ClC=1C=C(C(=N)NO)C=CC1 | C7H7ClN2O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-3-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-butyric acid methyl ester | 4.0 g, 95% | COC(C[C@@H](C)C1=NC(=NO1)C1=CC(=CC=C1)Cl)=O | C13H13ClN2O3
